US07786046B2
1.5) Methyl 4-(3-fluorophenylsulfanyl)-2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-hydroxybutyrate (Tab. 2. No. 2.7)
480 mg (1.5 mmol) of methyl (4-fluoro-2-trifluoromethylbenzoylamino)oxiranylacetate were dissolved in methanol, and 215 mg (1.5 mmol) of 3-fluorothiophenol and 280 mg (3.8 mmol) of triethylamine were then added. The mixture was then stirred at RT for 15 h, and the solvent was then removed. This gave 760 mg of diasteromerically pure crude product which was used for the next step without further purification.

reactant | methyl (4-fluoro-2-trifluoromethylbenzoylamino)oxiranylacetate | 1.5 mmol, 480 mg | FC1=CC(=C(C(=O)NC(C(=O)OC)C2OC2)C=C1)C(F)(F)F | C13H11F4NO4
reactant | 3-fluorothiophenol | 1.5 mmol, 215 mg | FC=1C=C(C=CC1)S | C6H5FS
reactant | triethylamine | 3.8 mmol, 280 mg | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | Methyl 4-(3-fluorophenylsulfanyl)-2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-hydroxybutyrate | FC=1C=C(C=CC1)SCC(C(C(=O)OC)NC(C1=C(C=C(C=C1)F)C(F)(F)F)=O)O | C19H16F5NO4S
